US07659267B2
3-[(5-Oxo-2-phenyl-1,3-oxazol-4(5H)-ylidene)methyl]benzonitrile
An acetic anhydride suspension (10 mL) of 3-cyanobenzaldehyde (1.32 g, 10.1 mmol), hippuric acid (1.81 g, 10.1 mmol) and sodium acetate (826 mg, 10.1 mmol) was stirred at 100° C. for 30 minutes. After the reaction mixture was allowed to cool and diethyl ether was added thereto, the solid was taken out by filtration and the filtrate was concentrated under reduced pressure. The solid obtained and the residue were combined and the mixture was suspended in a mixture of ethyl acetate-water. After filtering, the solid was dissolved in dichloromethane, followed by washing with water. The mixture was dried over sodium sulfate, filtered and concentrated under reduced pressure to give the title compound (2.04 g, 74%).

reactant | acetic anhydride | 10 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-cyanobenzaldehyde | 10.1 mmol, 1.32 g | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
reactant | hippuric acid | 10.1 mmol, 1.81 g | C(CNC(=O)C1=CC=CC=C1)(=O)O | C9H9NO3
reactant | sodium acetate | 10.1 mmol, 826 mg | C(C)(=O)[O-].[Na+]
solvent | ethyl acetate water | C(C)(=O)OCC.O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-[(5-Oxo-2-phenyl-1,3-oxazol-4(5H)-ylidene)methyl]benzonitrile | 2.04 g, 74% | O=C1C(N=C(O1)C1=CC=CC=C1)=CC=1C=C(C#N)C=CC1 | C17H10N2O2
